US06605624B1
Methyl 5-{[2-Chloro-4-(trifluoromethyl)-5-thiazolyl]carbonylamino}-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (Compound 117)
Methyl 5-amino-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (example A1 of U.S. Pat. No. 5,114,465) was reacted with 2-chloro-4-(trifluoromethyl)-5-thiazolecarbonyl chloride according to the procedure in example 1 of U.S. Pat. No. 5,114,465 afforded the product.

reactant | Methyl 5-amino-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | NC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C | C13H15F5N2O2
reactant | 2-chloro-4-(trifluoromethyl)-5-thiazolecarbonyl chloride | ClC=1SC(=C(N1)C(F)(F)F)C(=O)Cl | C5Cl2F3NOS
product | Methyl 5-{[2-Chloro-4-(trifluoromethyl)-5-thiazolyl]carbonylamino}-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | ClC=1SC(=C(N1)C(F)(F)F)C(=O)NC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C | C18H14ClF8N3O3S
